US05607944
2-[1-[[trans-4-[[1-(Ethoxycarbonyloxy)-ethyl]-oxycarbonyl]-cyclohexyl]-aminocarbonyl]-piperid-4-yl]-4,5,7,8-tetrahydro-6H-thiazolo[4,5-d]azepine
Prepared by dropwise addition of one equivalent of morpholine to 6-allyloxycarbonyl-2-[1-[[trans-4-[[1-(ethoxycarbonyloxy)-ethyl]-oxycarbonyl]-cyclohexyl]aminocarbonyl]-piperid-4-yl]-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepine and 0.1 equivalent of tetrakis-(triphenylphosphine)-palladium(O) in tetrahydrofuran followed by one hours' stirring at ambient temperature. The following compound is obtained analogously to Example 10:

reactant | morpholine | one equivalent | N1CCOCC1 | C4H9NO
reactant | 6-allyloxycarbonyl-2-[1-[[trans-4-[[1-(ethoxycarbonyloxy)-ethyl]-oxycarbonyl]-cyclohexyl]aminocarbonyl]-piperid-4-yl]-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepine | C(C=C)OC(=O)N1CCC2=C(CC1)SC(=N2)C2CCN(CC2)C(=O)N[C@@H]2CC[C@H](CC2)C(=O)OC(C)OC(=O)OCC | C29H42N4O8S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | tetrakis-(triphenylphosphine)-palladium(O) | 0.1 equivalent | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 2-[1-[[trans-4-[[1-(Ethoxycarbonyloxy)-ethyl]-oxycarbonyl]-cyclohexyl]-aminocarbonyl]-piperid-4-yl]-4,5,7,8-tetrahydro-6H-thiazolo[4,5-d]azepine | C(C)OC(=O)OC(C)OC(=O)[C@@H]1CC[C@H](CC1)NC(=O)N1CCC(CC1)C=1SC2=C(CCNCC2)N1 | C25H38N4O6S
